US04774325
8-{[2-hydroxy-3-phenoxy-propyl]thio}adenosine
A mixture of 1-phenoxy-2,3-epoxypropane (7.3 g, 48.6 mmoles), 8-mercaptoadenosine (11.5 g, 38.4 mmoles), 2,6 lutidine (about 20 drops) and ethanol (300 ml) is heated at reflux temperature for 1 hour, then it is concentrated to a small volume and ethyl ether is added to precipitate the compound of the title as a raw product. The precipitate is recovered by filtration, washed with ether and dried, dissolved in boiling ethanol, added to an equal amount (by weight) of silica gel and concentrated to dryness. The obtained residue is charged on a silica gel (120 g) column prepared in ethyl acetate and developed with an ethylacetate/ethanol 9/1 mixture. Fractions, containing only the end product, are combined and crystallized from dichloroethane/ethanol 9/1 yielding 6.5 g of the compound of the title. M.p. 100°-110° C. Fusion endotherm at 105° C. in DSC and [α]D30 -48.23° (c=1, CH3OH).

reactant | 1-phenoxy-2,3-epoxypropane | 48.6 mmoles, 7.3 g | O(C1=CC=CC=C1)CC1CO1 | C9H10O2
reactant | 8-mercaptoadenosine | 38.4 mmoles, 11.5 g | SC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H13N5O4S
reactant | ethanol | 300 ml | C(C)O | C2H6O
catalyst | 2,6 lutidine | about 20 drops | N1=C(C=CC=C1C)C | C7H9N
solvent | ethylacetate ethanol | C(C)OC(C)=O.C(C)O
product | 8-{[2-hydroxy-3-phenoxy-propyl]thio}adenosine | OC(CSC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N)COC1=CC=CC=C1 | C19H23N5O6S
